US04940710
1-Cyclopropyl-7-(3-ethynyl-1-piperazinyl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A mixture of 1.23 g of 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 1.95 g of 3-ethynylpiperazine and 15 ml of pyridine is heated at 140° C. in a pressure bottle for 18 hours and then purified as described in Example 101, giving 210 mg of the desired product.

reactant | 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.23 g | ClC1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C13H9ClFNO3
reactant | 3-ethynylpiperazine | 1.95 g | C(#C)C1CNCCN1 | C6H10N2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 1-Cyclopropyl-7-(3-ethynyl-1-piperazinyl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 210 mg | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)C#C)F)=O)C(=O)O | C19H18FN3O3
